US07173033B2
A solution of 3-methoxyphenyl isocyanate and 3-chloro-6-hydrazinopyridazine in acetonitrile was stirred at room temperature for 30 minutes, and 1,2-dibromo-1,1,2,2-tetrachloroethane was added and the mixture was stirred at room temperature for further 2 hours. This reaction solution was combined with triethylamine and triphenylphosphine with cooling in ice, and stirred at room temperature for 3 days. Then, the reaction solution was concentrated under reduced pressure, purified by a standard method to obtain 6-chloro-N-(3-methoxyphenyl)-1,2,4-triazolo[4,3-b]pyridazin-3-amine. Dat (F:276).

reactant | 3-methoxyphenyl isocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | 3-chloro-6-hydrazinopyridazine | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-chloro-N-(3-methoxyphenyl)-1,2,4-triazolo[4,3-b]pyridazin-3-amine | ClC=1C=CC=2N(N1)C(=NN2)NC2=CC(=CC=C2)OC | C12H10ClN5O
